US08008307B2
Step b: N-[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}-methyl)cyclopentyl]-6-chloro-N′-[(1S)-3,3-dimethyl-2,3-dihydro-1H-inden-1-yl]-1,3,5-triazine-2,4-diamine
To a solution of (1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclopentanamine (0.200 g, 0.556 mmol), TEA (0.21 mL, 1.50 mmol) in THF (0.80 mL) was added 4,6-dichloro-N-[(1S)-3,3-dimethyl-2,3-dihydro-1H-inden-1-yl]-1,3,5-triazin-2-amine (0.160 g, 0.500 mol). The reaction was stirred for 3.5 h then concentrated in vacuo. The residue was purified by preparative TLC (10% EtOAc/hexanes) followed by DCM. The relevant band was cut and washed using acetone, filtered, and concentrated in vacuo to afford the title compound (0.228 g, 71%). LC/MS: Rt=2.77 min, ES+ 633 (FA standard).

reactant | (1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclopentanamine | 0.556 mmol, 0.200 g | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](C[C@H]1CO[Si](C)(C)C(C)(C)C)N | C18H41NO2Si2
reactant | 4,6-dichloro-N-[(1S)-3,3-dimethyl-2,3-dihydro-1H-inden-1-yl]-1,3,5-triazin-2-amine | 0.500 mol, 0.160 g | ClC1=NC(=NC(=N1)Cl)N[C@H]1CC(C2=CC=CC=C12)(C)C | C14H14Cl2N4
solvent | THF | 0.80 mL | C1CCOC1 | C4H8O
product | N-[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}-methyl)cyclopentyl]-6-chloro-N′-[(1S)-3,3-dimethyl-2,3-dihydro-1H-inden-1-yl]-1,3,5-triazine-2,4-diamine | 0.228 g, 71% | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](C[C@H]1CO[Si](C)(C)C(C)(C)C)NC1=NC(=NC(=N1)N[C@H]1CC(C2=CC=CC=C12)(C)C)Cl | C32H54ClN5O2Si2
